US08557805B2
Ethyl[2-(7-methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetate
To a mixed solution of 7-methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carbothioamide (2.6 g), ethyl 2-butynoate (1.7 mL), tetrahydrofuran (40 mL), and toluene (60 mL) was added tri-n-butylphosphine (2.2 mL) under an argon atmosphere at room temperature, and the mixture was stirred at 40° C. for 2.5 hr. The reaction solution was concentrated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=40:60 to 65:35, volume ratio) to give the title compound (2.59 g, yield 76%) as a pale-yellow amorphous solid.

reactant | 7-methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indole-2-carbothioamide | 2.6 g | CC=1C=C(C=C2C=C(NC12)C(N)=S)OC=1C=NC(=CC1)S(=O)(=O)C | C16H15N3O3S2
reactant | ethyl 2-butynoate | 1.7 mL | C(C#CC)(=O)OCC | C6H8O2
reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
reactant | tri-n-butylphosphine | 2.2 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | Ethyl[2-(7-methyl-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}-1H-indol-2-yl)-4,5-dihydro-1,3-thiazol-5-yl]acetate | 2.59 g, yield 76% | C(C)OC(CC1CN=C(S1)C=1NC2=C(C=C(C=C2C1)OC=1C=NC(=CC1)S(=O)(=O)C)C)=O | C22H23N3O5S2
